US05834506
6-Butyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one
The title compound was prepared by debenzylation of 1.7 g (4.5 mmol) of 6-[2-(4-benzyloxy-phenyl)-ethyl]-6-butyl-4-hydroxy-5,6-dihydro-pyran-2-one (prepared in the paragraph above) using 0.15 g of 20% Pd on carbon and 75 mL of THF under hydrogen atmosphere as described in General Method 4. 1H NMR (DMSO-d6) δ 0.80 (t, 3 H), 1.2 (m, 4 H), 1.61 (m, 4 H), 1.81 (m, 2 H), 2.38 (d of ABX q, 1 H), 2.49 (d of ABX q, partially obscured by DMSO, 1 H), 4.89 (s, 1 H), 6.6 (d, 2 H), 6.91 (d, 2 H), 9.08 (s, 1 H), 11.25 (s, 1 H).

reactant | 6-[2-(4-benzyloxy-phenyl)-ethyl]-6-butyl-4-hydroxy-5,6-dihydro-pyran-2-one | 4.5 mmol, 1.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1(CC(=CC(O1)=O)O)CCCC | C24H28O4
catalyst | Pd on carbon | 0.15 g | [Pd] | Pd
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 6-Butyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | C(CCC)C1(CC(=CC(O1)=O)O)CCC1=CC=C(C=C1)O | C17H22O4
